US05719157
A mixture of methyl 2-ethyl-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)quinoline-3-carboxylate (0.5 g), 4N sodium hydroxide (20 ml) and methanol was stirred for 14 hours under reflux, poured into water, made acidic and extracted with chloroform. The chloroform layer was washed with water and dried over magnesium sulfate. Evaporation of the solvent gave 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-ethylquinoline-3-carboxylic acid (0.343 g, 71%) which was then recrystallized from acetone-methanol. mp. 264°-267° C.

reactant | methyl 2-ethyl-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)quinoline-3-carboxylate | 0.5 g | C(C)C1=NC2=CC(=C(C=C2C(=C1C(=O)OC)C1=CC(=C(C=C1)OC)OC)OC)OC | C23H25NO6
reactant | sodium hydroxide | 4N, 20 ml | [OH-].[Na+]
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-ethylquinoline-3-carboxylic acid | 0.343 g, 71% | COC=1C=C2C(=C(C(=NC2=CC1OC)CC)C(=O)O)C1=CC(=C(C=C1)OC)OC | C22H23NO6
